US07425631B2
N-(5-Aminomethyl-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide Hydrochloride
The title compound was prepared from N-(5-cyano-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide yielding the HCl salt as a white solid. MS (ESI) m/z 500 (M+H)+.

reactant | N-(5-cyano-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide | C(#N)C=1C=C2CCC(C2=CC1)NC(CC(C1=CC=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C29H25N3O3S
reactant | HCl | Cl | ClH
product | N-(5-Aminomethyl-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide Hydrochloride | Cl.NCC=1C=C2CCC(C2=CC1)NC(CC(C1=CC=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | InChI=1S/C29H29N3O3S.ClH/c30-19-20-10-14-26-24(16-20)12-15-27(26)31-29(33)18-28(22-7-2-1-3-8-22)32-36(34,35)25-13-11-21-6-4-5-9-23(21)17-25;/h1-11,13-14,16-17,27-28,32H,12,15,18-19,30H2,(H,31,33);1H
